US05395815
Under a nitrogen atmosphere, 4-acetoxybenzoic acid (100.0 g) and N,N-dimethylformamide (3 ml) were suspended in chloroform (500 ml) and thereto was added dropwise thionyl chloride (79.2 g) for a period of about 30 minutes. After completion of the addition, the suspension was refluxed with heating for 1 hour to prepare the corresponding acid chloride. The reaction mixture was cooled and thereto were added n-octadecylamine (149.6 g) and triethylamine (67.4 g), followed by refluxing with heating for 3 hours. The reaction mixture was cooled to room temperature to precipitate a white crystal. This crystal was filtered off under reduced pressure and washed with distilled water and then recrystallized from isopropanol to obtain N-n-octadecyl-4-acetoxybenzamide (206.0 g). Yield 86%; m.p. 106° C. This was suspended in 1,4-dioxane (1000 ml) and thereto was added aqueous KOH solution 50%) (160.7 g). The reaction mixture was kept at 40°-45° C. and the reaction was allowed to proceed for 24 hours. After completion of the reaction, the reaction mixture was cooled to room temperature and thereto was added dilute hydrochloric acid to precipitate a white crystal, which was filtered off under reduced pressure. This crystal was washed with distilled water and recrystallized from chloroform to obtain the desired product (137.6 g). Yield 74 %; m.p. 105° C.

reactant | 4-acetoxybenzoic acid | 100.0 g | C(C)(=O)OC1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 79.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | n-octadecylamine | 149.6 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 67.4 g | C(C)N(CC)CC | C6H15N
product | N-n-octadecyl-4-acetoxybenzamide | 206.0 g, Yield 86% | C(CCCCCCCCCCCCCCCCC)NC(C1=CC=C(C=C1)OC(C)=O)=O | C27H45NO3
